US06265130B1
Synthesis of bicyclo[2.2,2]oct-5-ene-2-carbonyl mono-tert-butyl malonate
To a solution of sodium salt of mono-tert-butyl malonate (20.4 g) prepared according to the same procedure as in Example 4, bicyclo[2,2,2]oct-5-ene-2-carbonyl chloride (17.1 g) obtained in Preparation Example 2 is slowly added, and the reaction mixture is reacted at −20° C. in a nitrogen atmosphere for 1 hour, and further reacted at 40° C. for 6 hours. Then, the mixture is worked up as in the procedure of Example 1, to obtain 25 g of the pure title compound (purity: 99%, yield: 84%).

reactant | sodium | [Na] | Na
reactant | mono-tert-butyl malonate | 20.4 g | C(CC(=O)[O-])(=O)OC(C)(C)C
reactant | bicyclo[2,2,2]oct-5-ene-2-carbonyl chloride | 17.1 g | C12C(CC(C=C1)CC2)C(=O)Cl | C9H11ClO
product | bicyclo[2.2,2]oct-5-ene-2-carbonyl mono-tert-butyl malonate | 25 g, yield: 84% | C(CC(=O)OC(C)(C)C)(=O)OC(=O)C1C2C=CC(C1)CC2 | C16H22O5
